US04212875
A mixture of N-benzoyl-N'-methyl-S-methylisothiourea and an excess of 1,8-diaminooctane is maintained at 60° for 5 hours to give a solid product which is washed with ether to leave N-benzoyl-N'-methyl-N"-(8-aminooctyl)guanidine.

reactant | N-benzoyl-N'-methyl-S-methylisothiourea | C(C1=CC=CC=C1)(=O)NC(SC)=NC | C10H12N2OS
reactant | 1,8-diaminooctane | NCCCCCCCCN | C8H20N2
product | N-benzoyl-N'-methyl-N"-(8-aminooctyl)guanidine | C(C1=CC=CC=C1)(=O)NC(=NCCCCCCCCN)NC | C17H28N4O
